US07041685B2
5-(3-Chloro-thiophen-2-yl)-3-(5-nitro-thiazol-2-yl)-[1,2,4]-oxadiazole
The title compound was prepared from 5-nitro-thiazole-2-amidoxime (17.2 mg, 0.0914 mmol) and 3-chloro-thiophene-2-carbonyl chloride (16.4 mg, 0.0905 mmol) similar to Example 16, and yielded 6.7 mg (23%) of yellow solid. 1H NMR (CDCl3): 8.74 (s, 11H), 7.70 (d, J=5.22 Hz, 1H), 7.18 (d, J=5.22 Hz, 1H).

reactant | 5-nitro-thiazole-2-amidoxime | 0.0914 mmol, 17.2 mg | [N+](=O)([O-])C1=CN=C(S1)C(N)=NO | C4H4N4O3S
reactant | 3-chloro-thiophene-2-carbonyl chloride | 0.0905 mmol, 16.4 mg | ClC1=C(SC=C1)C(=O)Cl | C5H2Cl2OS
product | 5-(3-Chloro-thiophen-2-yl)-3-(5-nitro-thiazol-2-yl)-[1,2,4]-oxadiazole | ClC1=C(SC=C1)C1=NC(=NO1)C=1SC(=CN1)[N+](=O)[O-] | C9H3ClN4O3S2
